US05204336
2-Methyl-1-naphthol (7.0 g, 44.2 mmole) and 1,1-dichloromethyl-methyl ether (7.12 g, 61.9 mmol) were dissolved in dry dichloromethane (150 ml). To the stirred solution stannic chloride (20.72 g, 79.6 mmole) was added dropwise at -58°, the mixture stirred for 45 minutes, and warmed to +10°. It was poured onto ice-water (200 ml) and extracted with ethyl acetate (2×100 ml). The extract was washed with aqueous saturated sodium chloride solution, dried and evaporated. The residue solidified on trituration under diethyl ether:n-pentane (1:10) mixture, was filtered off and chromatographed on silica gel using dichloromethane as eluant to give 4-hydroxy-3-methyl-1-napthaldehyde as a buff coloured crystalline solid, (5.3 g, 64.4%), m.p. 160°-61°.

reactant | 2-Methyl-1-naphthol | 44.2 mmole, 7.0 g | CC1=C(C2=CC=CC=C2C=C1)O | C11H10O
reactant | 1,1-dichloromethyl-methyl ether | 61.9 mmol, 7.12 g | ClCC(CCl)OC(CCl)CCl | C6H10Cl4O
solvent | dichloromethane | 150 ml | ClCCl | CH2Cl2
product | 4-hydroxy-3-methyl-1-napthaldehyde | OC1=C(C=C(C2=CC=CC=C12)C=O)C | C12H10O2
